US06992083B2
To a stirred solution of 220 mg (0.82 mmol) (4-methoxy-7-nitro-benzooxazol-2-yl)-carbamic acid methyl ester in 25 ml methanol and 45 ml dichloromethane was added a spatula end of 10% palladium on charcoal and stirring continued for 18 h at room temperature under an atmosphere of hydrogen. The mixture was then filtered and the filtrate concentrated in vacuo. Flash chromatography (2/98 methanol/dichloromethane) afforded 114 mg (58%) (7-amino-4-methoxy-benzooxazol-2-yl)-carbamic acid methyl ester as a white crystalline solid. ES-MS m/e (%): 238 (M+H+, 100).

reactant | (4-methoxy-7-nitro-benzooxazol-2-yl)-carbamic acid methyl ester | 0.82 mmol, 220 mg | COC(NC=1OC2=C(N1)C(=CC=C2[N+](=O)[O-])OC)=O | C10H9N3O6
solvent | methanol | 25 ml | CO | CH4O
solvent | dichloromethane | 45 ml | ClCCl | CH2Cl2
catalyst | palladium on charcoal | [Pd] | Pd
product | (7-amino-4-methoxy-benzooxazol-2-yl)-carbamic acid methyl ester | 114 mg, 58% | COC(NC=1OC2=C(N1)C(=CC=C2N)OC)=O | C10H11N3O4
